US07432275B2
To a mixture of (S)-1-[4-(4-tert-butyl-phenylamino)-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-2-ylmethyl]-pyrrolidine-2-carboxylic acid methyl ester (140 mg, 0.248 mmol) in THF (20 ml) and H2O (20 ml), add LiOH (18 mg, 0.745 mmol). Stir the mixture for 2 hours at 50° C. Concentrate, add water, extract with ether, acidify the aqueous layer to pH 6-7, extract with EtOAc, and concentrate to give (S)-1-[4-(4-tert-butyl-phenylamino)-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-2-ylmethyl]-pyrrolidine-2-carboxylic acid.

reactant | (S)-1-[4-(4-tert-butyl-phenylamino)-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-2-ylmethyl]-pyrrolidine-2-carboxylic acid methyl ester | 0.248 mmol, 140 mg | COC(=O)[C@H]1N(CCC1)CC1=NC2=CC(=CC=C2C(=N1)NC1=CC=C(C=C1)C(C)(C)C)C1=NC=CC=C1C(F)(F)F | C31H32F3N5O2
reactant | LiOH | 0.745 mmol, 18 mg | [Li+].[OH-]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | H2O | 20 ml | O | H2O
product | (S)-1-[4-(4-tert-butyl-phenylamino)-7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-2-ylmethyl]-pyrrolidine-2-carboxylic acid | C(C)(C)(C)C1=CC=C(C=C1)NC1=NC(=NC2=CC(=CC=C12)C1=NC=CC=C1C(F)(F)F)CN1[C@@H](CCC1)C(=O)O | C30H30F3N5O2
